US06716843B2
(S)-1-[N5-{(Imino)-(cyclohexylsulphonylamino)methyl}-ornithyl]-pyrrolidine Hydrochloride
Starting from (S)-N2-(benzyloxycarbonyl)-arginine, cyclohexanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | cyclohexanesulphonyl chloride | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-1-[N5-{(Imino)-(cyclohexylsulphonylamino)methyl}-ornithyl]-pyrrolidine Hydrochloride | Cl.N=C(NCCC[C@H](N)C(=O)N1CCCC1)NS(=O)(=O)C1CCCCC1 | InChI=1S/C16H31N5O3S.ClH/c17-14(15(22)21-11-4-5-12-21)9-6-10-19-16(18)20-25(23,24)13-7-2-1-3-8-13;/h13-14H,1-12,17H2,(H3,18,19,20);1H/t14-;/m0./s1
